US06667322B2
To a solution of [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methanol (5.00 g, 25.7 mmol) in dichloromethane (250 mL) was added p-toluenesulfonyl chloride (9.82 g, 51.5 mmol), 4-(dimethylamino)pyridine (0.62 g, 5.15 mmol), and N,N-diisopropylethylamine (8.32 g, 64.4 mmol) and the reaction mixture was heated to 50° C. for 12 h. The reaction mixture was quenched by the addition of water (500 mL). The aqueous layer was separated and extracted with dichloromethane (2×200 mL). The combined organic extracts were washed with aqueous hydrogen chloride (1.0 M, 200 mL), water (200 mL), aqueous sodium chloride (200 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:3) gave 6.45 g (72%, 40% ee) of [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate as a white crystalline solid. [α]D25=−20.30 (c 13.1 in chloroform, 40% ee); Rf=0.71 (silica, ethyl acetate:hexanes 2:3); mp 115-117° C.; Anal. Calcd. for C18H20O5S: C, 62.05; H, 5.79. Found: C, 61.99; H, 5.81.

reactant | [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methanol | 25.7 mmol, 5.00 g | COC=1C=CC=C2CC[C@@H](OC12)CO | C11H14O3
reactant | p-toluenesulfonyl chloride | 51.5 mmol, 9.82 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N,N-diisopropylethylamine | 64.4 mmol, 8.32 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 5.15 mmol, 0.62 g | CN(C1=CC=NC=C1)C | C7H10N2
product | [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 6.45 g, 72% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2CC1)OC | C18H20O5S
